US05336780
2 g (4.8 mmol) of 5-amino-3-methyl-1-(O-tosyl-3-nitrobenzohydroximoyl)-pyrazole are heated for 5 minutes under reflux in 5 ml of acetanhydride. This is then cooled down and hydrolysed with water. The solid mass which forms after a little while is separated off, washed with water, dried in the air and recrystallised from acetonitrile. 1.9 g (86%) of 5-acetamido-3-methyl-1-(O-tosyl-3-nitrobenzohydroximoyl)-pyrazole with a m. pt. of 208°-212° C. (decomp.) are obtained.

reactant | 5-amino-3-methyl-1-(O-tosyl-3-nitrobenzohydroximoyl)-pyrazole | 4.8 mmol, 2 g | NC1=CC(=NN1C(C1=CC(=CC=C1)[N+](=O)[O-])=NOS(=O)(=O)C1=CC=C(C)C=C1)C | C18H17N5O5S
reactant | water | O | H2O
reactant | acetanhydride | 5 ml | CC(=O)OC(=O)C | C4H6O3
product | 5-acetamido-3-methyl-1-(O-tosyl-3-nitrobenzohydroximoyl)-pyrazole | 1.9 g, 86% | C(C)(=O)NC1=CC(=NN1C(C1=CC(=CC=C1)[N+](=O)[O-])=NOS(=O)(=O)C1=CC=C(C)C=C1)C | C20H19N5O6S
